US03951999
5-Bromomethyl-3-(4-chlorophenyl)-1,2-benzisoxazole
3-(4-Chlorophenyl)-5-methyl-1,2-benzisoxazole (12.2g.) and N-bromosuccinimide (9.6g.) were mixed in carbon tetrachloride (200ml.) and heated under reflux in the presence of UV light. (Hanovia medium pressure lamp 125 watts, emitting at 254,265,297,313,366 mp). On cooling, the mixture was filtered and the filtrate evaporated to dryness. The resulting solid was recrystallized from 33% toluene/60-80 petrol ether (150 ml.) to give the title compound as a white crystalline solid (10.0g) m.p. 142°C

reactant | 3-(4-Chlorophenyl)-5-methyl-1,2-benzisoxazole | 12.2g | ClC1=CC=C(C=C1)C1=NOC2=C1C=C(C=C2)C | C14H10ClNO
reactant | N-bromosuccinimide | 9.6g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 200ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromomethyl-3-(4-chlorophenyl)-1,2-benzisoxazole | 10.0g | BrCC=1C=CC2=C(C(=NO2)C2=CC=C(C=C2)Cl)C1 | C14H9BrClNO
